US04677098
A solution of 5-oxo-alpha-hydroxy-2-pyrrolidinepropanoic acid (1.73 g), t-butyl-diphenylsilyl chloride (11 g), and imidazole (5.4 g) is allowed to stir in dimethylformamide (50 ml) for six hours at room temperature. The solution is diluted with water (100 mL) and extracted with diethyl ether (4×100 mL). The combined extracts are concentrated and the oil is dissolved in methanol (50 mL) and a 10% aqueous solution of potassium carbonate (50 mL) is added and the solution is stirred 18 hours. The solution is concentrated and washed with saturated brine (50 mL) and extracted with diethyl ether (4×75 mL). The combined extracts are dried and concentrated to an oil. The oil is dissolved in acetic anhydride (50 mL) and the solution is heated at 90° C. for two hours. The solution is filtered hot, concentrated, and the residue purified by chromatography on SiO2 (elution with chloroform:methanol; 99:1) to yield cis- and trans-2-t-butyl-diphenyllsilyloxy-dihydro-1H)-pyrrolizine-3,5(2H,6H )-dione as a white solid with mp 155°-156° C. NMR (CDCl3) and 7.60 (m, 10H), 4.66 (m, 1/2H), 4.40 (dd, 1H), 3.86 (m, 1/2H), 2.77-1.55 (m, 6H), 1.08 (s, 9H). IR (KBr) 3074, 2933, 1858, 1791, 1705, 1591, 1474, 1430, 1380, 1313, 1279.

reactant | 5-oxo-alpha-hydroxy-2-pyrrolidinepropanoic acid | 1.73 g | O=C1CCC(N1)CC(C(=O)O)O | C7H11NO4
reactant | t-butyl-diphenylsilyl chloride | 11 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 5.4 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | pyrrolizine-3,5(2H,6H )-dione | C1CC(N2C(CC=C12)=O)=O | C7H7NO2
